US04092150
A mixture of 128 grams of barbituric acid and 120 grams of urea in 200 ml of 1-methyl-2-pyrrolidone was heated at 145° for 15 minutes. Hot water was then added to the reaction mixture; a white solid precipitated and was collected by filtration. The precipitate was washed with hot dimethylformamide and dried to give 165 grams of 2,4,6-trihydroxy-5-pyrimidinecarboxamide; mp, >270°. The mass spectrum of the product was consistent with the assigned structure.

reactant | barbituric acid | 128 grams | N1C(=O)NC(=O)CC1=O | C4H4N2O3
reactant | urea | 120 grams | NC(=O)N | CH4N2O
reactant | water | O | H2O
solvent | 1-methyl-2-pyrrolidone | 200 ml | CN1C(CCC1)=O | C5H9NO
product | 2,4,6-trihydroxy-5-pyrimidinecarboxamide | 165 grams | OC1=NC(=C(C(=N1)O)C(=O)N)O | C5H5N3O4
